US05514680
Preparation of 5-Chloro-6-nitro-7-fluoro-1,4-dihydro-2,3-quinoxalinedione
The Method of Cheeseman, supra. was adapted. 5-Chloro-7-fluoro-1,4-dihydro-2,3-quinoxalinedione (30 mg, 0.14 mMol) was dissolved in concentrated H2SO4 (0.5 ml) at 0° C. for 30 min, and KNO3 (17 mg, 0.17 mmole, Baker) was added in one portion to this solution. The mixture was stirred at 0° C. for 3 h, then at room temperature for 30 h. It was poured into ice water (5 g) and the precipitate was collected by filtration. The precipitate was dissolved in 1N NaOH (5 mL), then was acidified to pH=2 with 4N HCl to give a cream precipitate, which was collected by filtration, then was dried in the air at 50° C. for 4 h, affording the pure (by NMR) title compound 5-chloro-6-nitro-7-fluoro-1,4-dihydro-2,3-quinoxalinedione (31 mg, 85.4%), as a white amorphous solid. mp: decomposed from 280° C. IR (KBr, cm-1): 3600, 3462, 3131, 1712, 1612, 1550. NMR (1H, DMSO-d6): δ7.106 (d, J=10.2 Hz, 1H), 11.800 (s, 1H), 12.371 (s, 1H). HRMS: calcd. for C8H3N3O4ClF (M+) m/z: 258.9795, found: 258.9790.

reactant | 5-Chloro-7-fluoro-1,4-dihydro-2,3-quinoxalinedione | 0.14 mMol, 30 mg | ClC1=C2NC(C(NC2=CC(=C1)F)=O)=O | C8H4ClFN2O2
reactant | KNO3 | 0.17 mmole, 17 mg | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 0.5 ml | OS(=O)(=O)O | H2O4S
product | 5-chloro-6-nitro-7-fluoro-1,4-dihydro-2,3-quinoxalinedione | 31 mg, 85.4% | ClC1=C2NC(C(NC2=CC(=C1[N+](=O)[O-])F)=O)=O | C8H3ClFN3O4
